US08623889B2
Step 3: 2-chloro-5-((2-chlorophenyl)ethynyl)isonicotinaldehyde oxime
A mixture of 2-chloro-5-((2-chlorophenyl)ethynyl)isonicotinaldehyde (1.1 g, 4.0 mmol), sodium acetate (490 mg, 6 mmol), and hyroxylamine hydrochloride (415 mg, 6 mmol) in ethanol (23 mL) and dichloroethane (13 mL) was heated at 50° C. for 15 minutes. The cooled reaction mixture was evaporated in vacuo to afford a residue that was redissolved in ethyl acetate (150 mL) and washed with water (100 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a white solid that was used in the next step without further purification.

reactant | 2-chloro-5-((2-chlorophenyl)ethynyl)isonicotinaldehyde | 4.0 mmol, 1.1 g | ClC=1C=C(C=O)C(=CN1)C#CC1=C(C=CC=C1)Cl | C14H7Cl2NO
reactant | sodium acetate | 6 mmol, 490 mg | C(C)(=O)[O-].[Na+]
reactant | hyroxylamine hydrochloride | 6 mmol, 415 mg | Cl.NO
solvent | ethanol | 23 mL | C(C)O | C2H6O
solvent | dichloroethane | 13 mL | ClC(C)Cl | C2H4Cl2
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 2-chloro-5-((2-chlorophenyl)ethynyl)isonicotinaldehyde oxime | ClC=1C=C(C=NO)C(=CN1)C#CC1=C(C=CC=C1)Cl | C14H8Cl2N2O
